US07763636B2
12.1 2-amino-3-iodo-5-fluoropyridine
5 g (44.6 mmol) of 2-amino-5-fluoropyridine, 13.9 g (44.6 mmol) of silver sulfate and 400 ml of ethanol are placed in a 500 ml two-necked flask equipped with a magnetic stirrer. 11.31 g (44.6 mmol) of iodine powder are then added portionwise. Stirring is continued at room temperature for 24 hours. The resulting yellow suspension is filtered, the precipitate is rinsed with ethanol and the filtrate is concentrated under reduced pressure. The residue thus obtained is taken up in a mixture of ethyl acetate (200 ml) and sodium carbonate solution (200 ml). After separation, the organic phase is successively washed with aqueous 25% sodium thiosulfate solution, with saturated aqueous sodium chloride solution and then dried over sodium sulfate and concentrated under reduced pressure. The resulting solid is purified by chromatography on a column of silica, eluting with a mixture of n-heptane and ethyl acetate. 2.67 g (11.22 mmol) of the expected product are obtained.

reactant | 2-amino-5-fluoropyridine | 44.6 mmol, 5 g | NC1=NC=C(C=C1)F | C5H5FN2
reactant | ethanol | 400 ml | C(C)O | C2H6O
reactant | iodine | 44.6 mmol, 11.31 g | II | I2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium carbonate | 200 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | silver sulfate | 44.6 mmol, 13.9 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-amino-3-iodo-5-fluoropyridine | 11.22 mmol, 2.67 g | NC1=NC=C(C=C1I)F | C5H4FIN2
